US06660744B1
Cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-chloro-1,3-benzoxazol-2-amine was prepared from cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.100 g, 0.246 mmol) and 2-amino-4-chlorophenol (0.035 g, 0.246 mmol) in a manner similar to that used for cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-methyl-1,3-benzoxazol-2-amine. The compound was formed as a pale yellow solid (0.020 g, 15%):

reactant | cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.246 mmol, 0.100 g | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C22H30N8
reactant | 2-amino-4-chlorophenol | 0.246 mmol, 0.035 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-methyl-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C(=CC=C1)C)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C30H35N9O
product | Cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-chloro-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1)Cl)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H32ClN9O
